US05663461
250 g of methanol, 4.7 g of potassium hydroxide and 10 g of water were added to 23.0 g of geranylgeranyl stearate (containing 22.08 g of geranylgeranyl stearate and 0.37 g of geranylneryl stearate) obtained as a cake in Example 2. The reaction mixture was stirred at 50° C. for 1 hour and cooled down to room temperature, to which 130 g of hexane was added. The resulting organic phase was separated, and the aqueous phase (lower phase) was washed twice with 120 g of hexane. Thereafter, the hexane washings were combined to the organic phase, followed by washing twice with 100 g of a 50% aqueous methanol. The resultant organic phase was concentrated under reduced pressure to give 12 g of crude geranylgeraniol. This crude product was subjected to simple distillation (137° C., 0.3 mmHg) to give 8.2 g of a main fraction. The results of the analysis of the obtained fraction with gas chromatography revealed that it contained geranylgeraniol with a purity of 98.1% and geranylnerol with a purity of 1.2%.

reactant | methanol | 250 g | CO | CH4O
reactant | potassium hydroxide | 4.7 g | [OH-].[K+]
reactant | water | 10 g | O | H2O
reactant | geranylgeranyl stearate | 23.0 g | C(CCCCCCCCCCCCCCCCC)(=O)OC\C=C(/C)\CC\C=C(\CC\C=C(/C)\CCC=C(C)C)/C | C38H68O2
solvent | hexane | 130 g | CCCCCC | C6H14
product | geranylgeraniol | 12 g | C(\C=C(/C)\CCC=C(C)C)CC(C)=CCC\C(\C)=C\CO | C20H34O
